US07820704B2
{(2,5-Dimethoxy-benzenesulfonyl)-[4-(4-isopropyl-phenyl)-thiazol-2-yl]-amino}-acetic acid was prepared following general procedure G1 using a solution of {(2,5-dimethoxy-benzenesulfonyl)-[4-(4-isopropyl-phenyl)-thiazol-2-yl]-amino}-acetic acid tert-butyl ester (96.8 mg, 0.182 mmol) in DCM (3 mL) and 4 N HCl solution in dioxane (2.5 mL) followed by trituration in hexanes to give {(2,5-Dimethoxy-benzenesulfonyl)-[4-(4-isopropyl-phenyl)-thiazol-2-yl]-amino}-acetic acid. 1H-NMR (400 MHz, CDCl3): 7.64 (d, 2H), 7.55 (d, 1H), 7.09-7.26 (m, 3H), 6.87 (d, 1H), 4.85 (s, 2H), 3.82 (s, 3H), 3.66 (s, 3H), 2.92 (sept, 1H), 1.25 (d, 6H); LCMS m/z: 477 (M+1)+.

reactant | {(2,5-dimethoxy-benzenesulfonyl)-[4-(4-isopropyl-phenyl)-thiazol-2-yl]-amino}-acetic acid tert-butyl ester | 0.182 mmol, 96.8 mg | C(C)(C)(C)OC(CN(C=1SC=C(N1)C1=CC=C(C=C1)C(C)C)S(=O)(=O)C1=C(C=CC(=C1)OC)OC)=O | C26H32N2O6S2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | 4 N | Cl | ClH
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
product | {(2,5-Dimethoxy-benzenesulfonyl)-[4-(4-isopropyl-phenyl)-thiazol-2-yl]-amino}-acetic acid | COC1=C(C=C(C=C1)OC)S(=O)(=O)N(C=1SC=C(N1)C1=CC=C(C=C1)C(C)C)CC(=O)O | C22H24N2O6S2
